US05565577
ii. Preparation of N-(1-iminopentyl)-4-(aminomethyl)benzoic acid
A 22 L, three-necked round bottom flask equipped with an air-powered mechanical stirrer was placed under a nitrogen atmosphere. The vessel was charged with methyl valerimidate hydrochloride (2.5 kg, 16 mol) and dimethylformamide (9.2 L). A thermometer was attached and the suspension cooled to 0°-15° C. with a cooling bath. Triethylamine (2.3 L) was added to the reaction at such a rate so that the internal temperature did not exceed 25° C. The cooling was stopped and the reaction was allowed to stir 1 hour. The reaction mixture was vacuum filtered using a Buchner funnel and a carboy (20 L). The filter cake was washed with additional dimethylformamide (1.0 L) and force-air dried for 15 min. The combined filtrates were saved. Another clean 22 L, three-necked round bottom flask equipped as above was placed under nitrogen. The vessel was charged with the combined filtrates from above followed by triethylamine (1.6 L) and 4-(aminomethyl)benzoic acid (1.7 kg, 11.5 mol). The thermometer was attached and the suspension was heated to an internal temperature of 65° C. with a heating mantle and a temperature controller. The heating was continued for 20 hours. The reaction was cooled to ambient temperature and filtered to yield 2.5 kg of product; 92% uncorrected yield.

reactant | methyl valerimidate hydrochloride | 16 mol, 2.5 kg | Cl.C(CCCC)(OC)=N
reactant | dimethylformamide | 9.2 L | CN(C=O)C | C3H7NO
reactant | 4-(aminomethyl)benzoic acid | 11.5 mol, 1.7 kg | NCC1=CC=C(C(=O)O)C=C1 | C8H9NO2
solvent | triethylamine | 1.6 L | C(C)N(CC)CC | C6H15N
solvent | Triethylamine | 2.3 L | C(C)N(CC)CC | C6H15N
product | N-(1-iminopentyl)-4-(aminomethyl)benzoic acid | 2.5 kg | N=C(CCCC)NCC1=CC=C(C(=O)O)C=C1 | C13H18N2O2
